US05733913
6-(2,3-Dichlorophenyl)-pyrido[2,3-d]pyrimidine-2,7-diamine
Following the procedure of Example 1, 2,3-dichlorophenylacetonitrile was reacted with 2,4-diamino-5-pyrimidinecarboxaldehyde to give the title compound; mp 366°-369° C. (dec).

reactant | 2,3-dichlorophenylacetonitrile | ClC1=C(C=CC=C1Cl)CC#N | C8H5Cl2N
reactant | 2,4-diamino-5-pyrimidinecarboxaldehyde | NC1=NC=C(C(=N1)N)C=O | C5H6N4O
product | 6-(2,3-Dichlorophenyl)-pyrido[2,3-d]pyrimidine-2,7-diamine | ClC1=C(C=CC=C1Cl)C1=CC2=C(N=C(N=C2)N)N=C1N | C13H9Cl2N5
